US07906652B2
3-(1-{1-[(4-chlorophenyl)(3-cyanophenyl)methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluoro-N,N-dimethylbenzamide
Prepared from 3-(1-{1-[(4-chlorophenyl)(3-cyanophenyl)methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzoic acid and dimethylamine according to the procedure described in Preparation 22; Mass Spectrum: m/e=522 (M+1, 35Cl), 524 (M+1, 37Cl).

reactant | 3-(1-{1-[(4-chlorophenyl)(3-cyanophenyl)methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzoic acid | ClC1=CC=C(C=C1)C(N1CC(C1)C(C(C)(C)F)C=1C=C(C(=O)O)C=C(C1)F)C1=CC(=CC=C1)C#N | C28H25ClF2N2O2
reactant | dimethylamine | CNC | C2H7N
product | 3-(1-{1-[(4-chlorophenyl)(3-cyanophenyl)methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluoro-N,N-dimethylbenzamide | ClC1=CC=C(C=C1)C(N1CC(C1)C(C(C)(C)F)C=1C=C(C(=O)N(C)C)C=C(C1)F)C1=CC(=CC=C1)C#N | C30H30ClF2N3O
